US06462075B1
2,6-Bis(2,6-dichlorobenzylidene)cyclohexanone.
(76) Cyclohexanone (10 mmol), 60 ml of ethanol, and 2,6-dichlorobenzaldehyde (20 mmol) were used. The reaction stirred for 4 hours. A solid formed and was filtered. Recrystallization from ethanol yielded 3.24 g (78.6%) of bright-yellow flakes: mp 185.0-186.0° C. (lit. mp 183° C., Smith et al., supra). 1H NMR (250 MHz) δ 7.60 (s, 2H), 7.37-7.18 (m, 6H), 2.45 (t, 4H), 1.73 (p, 2H); 13C NMR (62.7 MHz) 188.2, 140.3, 134.6, 134.4, 132.4, 129.6, 128.1, 28.4, 22.1 ppm.

reactant | Cyclohexanone | 10 mmol | C1(CCCCC1)=O | C6H10O
reactant | 2,6-dichlorobenzaldehyde | 20 mmol | ClC1=C(C=O)C(=CC=C1)Cl | C7H4Cl2O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 2,6-Bis(2,6-dichlorobenzylidene)cyclohexanone | ClC1=C(C=C2C(C(CCC2)=CC2=C(C=CC=C2Cl)Cl)=O)C(=CC=C1)Cl | C20H14Cl4O
